US07183306B2
A mixture of 10% Pd-C 50% wet (100 mg) and ethyl 5-(4-cyanophenyl)-1-(4-methoxyphenyl)-1H-pyrazole-3-carboxylate (1 g) in THF (10 ml), MeOH (5 ml), and 1M HCl (2.9 ml) was hydrogenated under H2 latmat ambient temperature for 6.5 hours. The catalyst was filtered off through a celite pad and the pad was washed with MeOH. The filtrate and combined washings were concentrated in vacuo. The residue was dissolved in EtOH and concentrated in vacuo. The residue was crystallized from AcOEt to give ethyl 5-[4-(aminomethyl)phenyl]-1-(4-methoxyphenyl)-1H-pyrazole-3-carboxylate hydrochloride (984 mg) as a powder.

reactant | ethyl 5-(4-cyanophenyl)-1-(4-methoxyphenyl)-1H-pyrazole-3-carboxylate | 1 g | C(#N)C1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)OC)C(=O)OCC | C20H17N3O3
reactant | HCl | 1M, 2.9 ml | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | MeOH | 5 ml | CO | CH4O
catalyst | Pd-C | [Pd] | Pd
product | ethyl 5-[4-(aminomethyl)phenyl]-1-(4-methoxyphenyl)-1H-pyrazole-3-carboxylate hydrochloride | 984 mg | Cl.NCC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)OC)C(=O)OCC | InChI=1S/C20H21N3O3.ClH/c1-3-26-20(24)18-12-19(15-6-4-14(13-21)5-7-15)23(22-18)16-8-10-17(25-2)11-9-16;/h4-12H,3,13,21H2,1-2H3;1H
